US07501426B2
5-(methanesulfonyloxymethyl)-2-furan-carboxaldehyde
Prepared by reacting 5-(hydroxymethyl)-2-furan-carboxaldehyde with methanesulfonic acid chloride in the presence of triethylamine in methylene chloride at ambient temperature. The crude product is further reacted without any more purification.

reactant | 5-(hydroxymethyl)-2-furan-carboxaldehyde | OCC1=CC=C(O1)C=O | C6H6O3
reactant | methanesulfonic acid chloride | CS(=O)(=O)Cl | CH3ClO2S
reactant | triethylamine | C(C)N(CC)CC | C6H15N
solvent | methylene chloride | C(Cl)Cl | CH2Cl2
product | 5-(methanesulfonyloxymethyl)-2-furan-carboxaldehyde | CS(=O)(=O)OCC1=CC=C(O1)C=O | C7H8O5S
